US05391553
7-(1,1 -Dimethylethyl)-9-hydroxy-1,2,3,4-tetrahydroacridine
A solution prepared from 25.0 g of 4-t-butylaniline-29.0 g of 2-ethoxycarbonylcyclohexanone, 100 ml of benzene and 0.20 g of p-toluenesulfonic acid was refluxed for 6 hours. At the end of this time no more water was collected from the reaction (Dean-Stark trap), so the benzene was evaporated and the residue was dissolved in 80 ml of diphenyl ether. This mixture was refluxed for 1 hour and then allowed to cool to room temperature overnight. The product which had precipitated from this solution was filtered off and washed well with diethyl ether to give 11.52 g of analytically pure product, m.p. 320°-322°.

reactant | 4-t-butylaniline | 25.0 g | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
reactant | 2-ethoxycarbonylcyclohexanone | C(C)OC(=O)C1C(CCCC1)=O | C9H14O3
reactant | p-toluenesulfonic acid | 0.20 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 7-(1,1 -Dimethylethyl)-9-hydroxy-1,2,3,4-tetrahydroacridine | CC(C)(C)C1=CC=C2N=C3CCCCC3=C(C2=C1)O | C17H21NO
